US07338958B2
zd) Production of (RS)-N-(ethoxycarbonyl)-S-methyl-S-(4-nitrophenyl)sulfoximide
8.50 g (42.5 mmol) of (RS)-S-(4-nitrophenyl)-S-methyl sulfoximide in 400 ml of pyridine is mixed drop by drop at room temperature with 18.8 ml (197.2 mmol) of ethyl chloroformate. The batch is stirred for 4 hours at room temperature and then added in dilute NaCl solution. It is extracted from ethyl acetate. The combined organic phases are dried (Na2SO4), filtered and concentrated by evaporation. The remaining residue is purified by chromatography (hexane/ethyl acetate 1:1). 8.94 g (32.8 mmol, corresponding to 77% of theory) of the product is obtained.

reactant | (RS)-S-(4-nitrophenyl)-S-methyl sulfoximide | 42.5 mmol, 8.50 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=N)C | C7H8N2O3S
reactant | ethyl chloroformate | 197.2 mmol, 18.8 ml | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
solvent | NaCl | [Na+].[Cl-]
product | (RS)-N-(ethoxycarbonyl)-S-methyl-S-(4-nitrophenyl)sulfoximide | C(C)OC(=O)N=S(=O)(C1=CC=C(C=C1)[N+](=O)[O-])C | C10H12N2O5S
